US05994349
Methyl 6-methyl-2,4-dioxo-cyclohexane carboxylate (7a).
To a freshly prepared solution of sodium (17.78 g, 0.77 gram-atom) in methanol (220 mL) is added methyl acetoacetate 89.66 g (0.77 mole) and the mixture is stirred on an ice bath 15 min after the addition. Ethyl crotonate (100 mL of a 96% product≈88.13 g (100%; 0.77 mole) is added dropwise and the mixture is stirred at room temperature for an additional 30 min. After refluxing (2 h), methyl 6-methyl-2,4-dioxo-cyclohexane carboxylate enolate, which separates, is filtered, and the solid residue is dissolved in a minimum amount of cold water. The aqueous solution acidifed with sulfuric acid (500 mL of a 2 M solution), the precipitate extracted with dichloromethane (4×300 mL) and the organic phase dried over sodium sulfate. The residue is evaporated and the residue recrystallized from toluene to give the title compound: yield, 37 g, 40%, mp 122-123° C. The mother liquor from the reaction is evaporated to dryness, dissolved in cold water and extracted with dichloromethane (after acidification with the same 2 M sulfuric acid used previously). After evaporation and recrystallization from toulene, the mp is identical to the original crop. Total yield: 47 g; 51%.

reactant | sodium | 17.78 g | [Na] | Na
reactant | methyl acetoacetate | 0.77 mole, 89.66 g | C(CC(=O)C)(=O)OC | C5H8O3
reactant | Ethyl crotonate | C(\C=C\C)(=O)OCC | C6H10O2
solvent | methanol | 220 mL | CO | CH4O
product | Methyl 6-methyl-2,4-dioxo-cyclohexane carboxylate | CC1CC(CC(C1C(=O)OC)=O)=O | C9H12O4
